Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever, Dysuria
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with a h/o COPD, BPH, recently discovered lung mass, who 
presents with fever, chills, dysuria, urinary frequency.

He underwent bronchoscopy with IP on ___ for a lung nodule. 
The patient reports that immediately after the procedure he had 
difficulty urinating and required a straight catheter, but he 
was ultimately discharged without a catheter in place. He went 
home and was able to urinate on his own. However, over the past 
day, he had increasing difficulty urinating, dysuria, lower 
abdominal pain, chills, and fever.

He reports ongoing lower urinary tract symptoms for some time.  
This includes urinary frequency and incomplete voiding.  He has 
followed with a ___ Urologist for elevated PSA and had 
prostate biopsy showing high grade intraepithelial neoplasia.  
He also has a history of microscopic hematuria, as well as 
atypical cells on urine cytology, which was worked up with a 
negative cystoscopy and negative CT scan.

He also has had several months of bilateral low back pain.  He 
says this pain is now slightly worse.  He denies any cough or 
shortness of breath.  He has no chest pain at present, but in 
the ED did endorse chest pressure while urinating at one point.

In the ED,
- Initial vitals:  101.9, HR 102, BP 165/92, RR 18, 98% RA 
- Tmax 103.3
- Given Tylenol, 1L NS, 1g CTX
- Rectal exam was without evidence of prostatitis, did show 
enlarged prostate
- Labs notable for troponin negative, elevated WBC, and initial 
lactate 2.6 which improved to 1.1 after IVF
- UA showing WBC and Nitrite

On arrival to the floor, pt without new complaint, though with 
ongoing dysuria.

 
Past Medical History:
COPD
BPH
Focal high grade prostatic intraepithelial neoplasia
Nodular thyroid disease
GERD, ___ Esophagus
 
Social History:
___
Family History:
- Mother: non-smoker, developed small cell lung cancer
 
Physical Exam:
ADMISSION EXAM
=======================
Vitals:  98.6, 136/75, HR 89, RR 16, 96 Ra 
General: Alert, oriented, no acute distress, pleasant
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes or rales  
CV: RRR, S1/S2, no m/r/g
Abdomen: soft, mild lower abdominal tenderness, +BS, no rebound 
or guarding
Ext: warm, well perfused, 2+ pulses, no edema 
Neuro: CN2-12 intact, no focal deficits 
Skin:  No rash or lesion

DISCHARGE EXAM
=======================
General: Alert, oriented, no acute distress, pleasant, seen 
ambulating the halls without difficulty
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes or rales  
CV: RRR, S1/S2, no m/r/g
Abdomen: soft, nontender, no distension
Ext: warm, well perfused, 2+ pulses, no edema 
Neuro: CN2-12 intact, no focal deficits 
Skin:  No rash or lesion
 
Pertinent Results:
ADMISSION LABS
=========================
___ 09:35PM BLOOD WBC-15.5*# RBC-4.33* Hgb-14.4 Hct-41.2 
MCV-95 MCH-33.3* MCHC-35.0 RDW-12.3 RDWSD-43.0 Plt ___
___ 09:35PM BLOOD Neuts-92.9* Lymphs-3.7* Monos-1.3* 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-14.44* AbsLymp-0.57* 
AbsMono-0.20 AbsEos-0.11 AbsBaso-0.06
___ 09:35PM BLOOD Glucose-121* UreaN-20 Creat-0.8 Na-133 
K-6.9* Cl-95* HCO3-23 AnGap-15
___ 09:35PM BLOOD cTropnT-<0.01
___ 09:35PM BLOOD Calcium-8.8 Phos-2.9 Mg-1.9
___ 09:53PM BLOOD Lactate-2.6* K-4.1

OTHER PERTINENT LABS
=========================
___ 01:20PM BLOOD WBC-22.5* RBC-4.05* Hgb-13.3* Hct-38.2* 
MCV-94 MCH-32.8* MCHC-34.8 RDW-12.1 RDWSD-42.2 Plt ___
___ 06:07AM BLOOD WBC-17.6* RBC-4.18* Hgb-14.0 Hct-39.0* 
MCV-93 MCH-33.5* MCHC-35.9 RDW-12.3 RDWSD-42.3 Plt ___
___ 06:07AM BLOOD Glucose-137* UreaN-12 Creat-0.7 Na-137 
K-3.7 Cl-99 HCO3-19* AnGap-19*
___ 06:07AM BLOOD Calcium-8.3* Phos-2.4* Mg-2.0
___ 07:37AM BLOOD Lactate-1.1

REPORTS
=========================
CXR ___. Emphysematous changes and left hilar adenopathy better 
appreciated on recent chest CT. 
2. No acute intrathoracic process.

MICROBIOLOGY
=========================
___ 9:30 pm URINE

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION.

___ Blood cultures - NGTD at time of discharge
 
Brief Hospital Course:
___ with a h/o COPD, BPH, recently discovered lung mass s/p EBUS 
and biopsy ___, who presented with fever, chills, urinary 
symptoms, consistent with UTI.

He was found to have pyuria and a nitrite positive UA, along 
with a leukocytosis and a fever. He was started on IV 
Ceftriaxone, given IV fluids, and admitted to medicine. He 
remained hemodynamically stable following admission, his WBC 
downtrended, and he had no further fevers. He was ambulating the 
halls, well appearing, and felt ready to go home. He was 
discharged home with PO Ciprofloxacin to complete a 14 day 
course for a complicated UTI.

He also noted a several month history of lower urinary tract 
symptoms. He had an enlarged prostate on initial physical exam 
(with no evidence of prostatitis). He was started on Tamsulosin. 
He will follow up with his PCP and ___ regarding these 
symptoms, as well as his elevated PSA which is already being 
followed.

CHRONIC ISSUES
=====================
# COPD:  CXR showing stable emphysematous changes, no acute 
findings
- Continue home Advair: patient reports not taking because he 
does not know how to use

# Lung Mass:  Underwent EBUS and biopsy as outpatient on ___
- F/u cytology results as outpatient

# GERD - continue home ranitidine

TRANSITIONAL ISSUES
=====================
- Urine and blood cultures still pending at time of discharge. 
Will follow up results and contact patient if resistant to Cipro
- Continue Ciprofloxacin to treat UTI with ___mg BID x12 more days, last day ___
- Initiated Tamsulosin 0.4mg QHS to treat lower urinary tract 
symptoms. Urology follow up has been scheduled
- Cytology from EBUS/Biopsy ___ still pending at this time. 
Results to be followed up by ordering providers, and he is 
scheduled in Pulmonary Clinic next week.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Ranitidine 150 mg PO BID 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 12 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*24 Tablet Refills:*0 
3.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth nightly Disp #*30 
Capsule Refills:*1 
4.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
5.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection
Lower urinary tract symptoms

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.  You were 
admitted because of fevers and urinary symptoms.  You were found 
to have an infection of the urine.  We treated you with 
antibiotics and you got better.

You will need to continue to take the antibiotic, as prescribed, 
for 12 more days to completely kill the bacteria.

We also started you on a medication called Tamsulosin (AKA 
Flomax) to help treat your ongoing urinary symptoms and 
difficulty urinating.

Please take the medications as prescribed.  Please follow up 
with your PCP and ___ as scheduled below.  Please also 
follow up with the Lung Doctors, as was already scheduled.

It was a pleasure, we wish you the best,
___ Medicine Team
 
Followup Instructions:
___